US03954834
In a 1 L three necked flask fitted with a mechanical stirrer, a thermometer, a nitrogen inlet tube and a calcium chloride drying tube, is placed a suspension of 5.75 g of sodium hydride in 250 ml of dry dimethylformamide. Dry nitrogen is let in and 69 g of ethyl propane-1,1,3-tricarboxylate (G. A. Swan, J.Chem.Soc., 1039 (1955)) is added dropwise with vigorous stirring. The rate of addition is adjusted to maintain an internal temperature of about 25°C. The reaction mixture is stirred at room temperature until all the sodium hydride has reacted. 60 g of ethyl α-bromocaprylate (K. Bernhard, Helv.Chim.Acta, 29, 1462 (1946)) are added over a period of 1 hour. After the addition has been completed, the reaction mixture is stirred at 100°C for 5 hours. The reaction mixture is cooled to 10°C and added dropwise to a well stirred suspension of 5.75 g of sodium hydride in 50 ml of pentane under nitrogen atmosphere over a period of 2 hours. When the addition is completed, the mixture is stirred at room temperature for an additional 12 hours. The solvent is removed at a reduced pressure and the residue is poured into 1500 ml of cold 5% hydrochloric acid. The organic layer is separated and the water phase is extracted with ether. The combined organic layer and the ether extract are washed with water and sodium carbonate solution and dried over anhydrous sodium sulphate. After removal of the solvent, the unreacted ethyl propane-1,1,3-tricarboxylate is distilled off at 100°-105°C/0,15 mm (16 g) and the residue is boiled for 20 hours with a mixture of 750 ml of acetic acid and 750 ml of concentrated hydrochloric acid. The volatile acids are distilled off at a reduced pressure and the residue is poured onto a large excess of crushed ice. The solid product is collected on a Buchner funnel, washed repeatedly with cold water and dried. The product is recrystallized from cyclohexane-pentane to yield 21,5 g (78%) of 2n-hexyl-3-oxo-cyclopentane-carboxylic acid melting at 73°-74°C.

reactant | sodium hydride | 5.75 g | [H-].[Na+]
reactant | ethyl propane-1,1,3-tricarboxylate | 69 g | C(CCC(=O)[O-])(C(=O)OCC)C(=O)[O-]
reactant | ethyl α-bromocaprylate | 60 g | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | sodium hydride | 5.75 g | [H-].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | pentane | 50 ml | CCCCC | C5H12
product | 2n-hexyl-3-oxo-cyclopentane-carboxylic acid | 21,5 g, 78% | C(CCCCC)C1C(CCC1=O)C(=O)O | C12H20O3
